US09029536B2
G) 1-Ethyl-3-[4-(3H-imidazo[4,5-b]pyridin-2-yloxy)phenyl]-1H-pyrazolo[4,3-b]pyridine
A mixture of 1-ethyl-3-[4-(3-{[2-(trimethylsilyl)ethoxy]methyl}-3H-imidazo[4,5-b]pyridin-2-yloxy)phenyl]-1H-pyrazolo[4,3-b]pyridine (90 mg), 1 M TBAF in THF (0.74 mL) and THF (2 ml) was heated at 100° C. for 3 h under microwave irradiation. The mixture was stirred at 80° C. overnight. The mixture was poured into water and extracted with AcOEt. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (AcOEt/hexane) to give the title compound (18 mg).

reactant | 1-ethyl-3-[4-(3-{[2-(trimethylsilyl)ethoxy]methyl}-3H-imidazo[4,5-b]pyridin-2-yloxy)phenyl]-1H-pyrazolo[4,3-b]pyridine | 90 mg | C(C)N1N=C(C2=NC=CC=C21)C2=CC=C(C=C2)OC2=NC=1C(=NC=CC1)N2COCC[Si](C)(C)C | C26H30N6O2Si
reactant | TBAF | 1 M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | water | O | H2O
solvent | THF | 0.74 mL | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 1-Ethyl-3-[4-(3H-imidazo[4,5-b]pyridin-2-yloxy)phenyl]-1H-pyrazolo[4,3-b]pyridine | 18 mg | C(C)N1N=C(C2=NC=CC=C21)C2=CC=C(C=C2)OC2=NC=1C(=NC=CC1)N2 | C20H16N6O
